US07868005B2
1-Boc-2(S)-ethyl-5(R)-methylpiperazine acetic acid salt (10 g) was dissolved in dichloromethane (100 mL) and treated with triethylamine (4 mL, 3 g). Solvent was evaporated and the residue was passed through a silica gel column, eluting with 3% methanol (containing ammonia) in dichloromethane, to give 1-Boc-2(S)-ethyl-5(R)-methylpiperazine free base (7.2 g).

reactant | 1-Boc-2(S)-ethyl-5(R)-methylpiperazine acetic acid salt | 10 g | C(C)(=O)O.C(=O)(OC(C)(C)C)N1[C@H](CN[C@@H](C1)C)CC
reactant | triethylamine | 4 mL, 3 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-Boc-2(S)-ethyl-5(R)-methylpiperazine | 7.2 g | C(=O)(OC(C)(C)C)N1[C@H](CN[C@@H](C1)C)CC | C12H24N2O2
